US04994452
1-Benzyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,2]benzoxazepin-2-one
To a suspension of 1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one (4.30 g) in dry dimethylformamide (50 ml) was added potassium tert-butoxide (2.1 g). To the solution was added benzyl bromide (2.22 ml), and stirring was continued for five mins. The reaction mixture was diluted with water (150 ml) and extracted with diethyl ether. The organic phase was washed with water, brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. Trituration of the residue with pentane followed by recrystallization from methanol gave 2.42 g (41%) of product, mp 166°-167.5° C.

reactant | 1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 4.30 g | N1C(COC2=C3C1=C1CCCCC1=NC3=CC=C2)=O | C15H14N2O2
reactant | potassium tert-butoxide | 2.1 g | CC(C)([O-])C.[K+]
reactant | benzyl bromide | 2.22 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 1-Benzyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,2]benzoxazepin-2-one | 2.42 g, 41% | C(C1=CC=CC=C1)C1C(NOC2=C3C1=C1CCCCC1=NC3=CC=C2)=O | C22H20N2O2
